US09303040B2
HBTU (0.097 mmol, 47 mg) was added to a solution of (S)-5-methyl-4-(piperazin-1-yl)-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride (30 mg, 0.097 mmol) and 2-(1-(tert-butoxycarbonylamino)cyclopropyl)-2-(4-chlorophenyl)acetic acid (0.097 mmol) in DCM (5 mL) and TEA (5 mL). The mixture was stirred at room temperature for 6 hours. The solvent was removed, and the residue was subject to column chromatography, eluted by DCM/MeOH (50:1) to give tert-butyl 1-(1-(4-chlorophenyl)-2-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-2-oxoethyl)cyclopropylcarbamate LCMS: 544.0 [M-Boc+H+] (APCI+); Rf: 3.49 min. The tert-butyl 1-(1-(4-chlorophenyl)-2-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-2-oxoethyl)cyclopropylcarbamate was deprotected using procedures described previously to give 2-(1-aminocyclopropyl)-2-(4-chlorophenyl)-1-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)ethanone. Rf: 2.24 min.

reactant | HBTU | 0.097 mmol, 47 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-5-methyl-4-(piperazin-1-yl)-5,7-dihydrothieno[3,4-d]pyrimidine dihydrochloride | 0.097 mmol, 30 mg | Cl.Cl.C[C@@H]1SCC=2N=CN=C(C21)N2CCNCC2
reactant | 2-(1-(tert-butoxycarbonylamino)cyclopropyl)-2-(4-chlorophenyl)acetic acid | 0.097 mmol | C(C)(C)(C)OC(=O)NC1(CC1)C(C(=O)O)C1=CC=C(C=C1)Cl | C16H20ClNO4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-(1-(4-chlorophenyl)-2-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-2-oxoethyl)cyclopropylcarbamate | ClC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS[C@H]2C)C2(CC2)NC(OC(C)(C)C)=O | C27H34ClN5O3S
